US08106043B2
2-Chloro-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone:
A suspension of 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine (8 g, 44.4 mmol) in anhydrous toluene (100 mL) under positive argon pressure was treated dropwise with 2-chloroacetyl chloride (3.91 mL, 48.8 mmol). The mixture was heated at reflux for 25 minutes and became a bright yellow solution. The solution was allowed to cool to room temperature, and a saturated NaHCO3 solution (150 mL) was added. The mixture was transferred to a separatory funnel, and the product was extracted with CH2Cl2 (2×200 mL). The combined organic layers were filtered through a pad of silica gel, washed with CH2Cl2 (50 mL), and concentrated to give a yellow solid (10 g, 88%). 1H-NMR (DMSO-d6) δ 8.22 (d, J=9.0 Hz, 1H), 7.80 (dd, J=2.7, 9.3 Hz, 1H), 7.72 (d, J=2.7 Hz, 1H), 4.74 (s, 2H), 4.40 (t, J=4.2 Hz, 2H), 3.94 (t, J=4.8 Hz, 2H); ESI-MS (m/z, %): 279 (MNa+, 30), 257 (MH+, 100).

reactant | 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine | 44.4 mmol, 8 g | [N+](=O)([O-])C=1C=CC2=C(OCCN2)C1 | C8H8N2O3
reactant | 2-chloroacetyl chloride | 48.8 mmol, 3.91 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-1-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanone | 10 g, 88% | ClCC(=O)N1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C10H9ClN2O4
